US05962468
Synthesis of 1-cyclopropyl-5-amino-6,8-difluoro-7-(4-aminomethyl-3-methyloxyiminopyrrolidin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
143 mg (0.5 mmole) of 1-cyclopropyl-5-amino-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid and 205 mg (0.55 mmole) of 4-aminomethylpyrrolidin-3-one O-methyloxime ditrifluorcacetate were refluxed for 4 hours under heating according to the same manner as Example 177. Then, the reaction solution was concentrated and the residue was purified with preparative HPLC to obtain 84 mg (Yield: 40%) of the title compound.

reactant | 1-cyclopropyl-5-amino-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.5 mmole, 143 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)N)=O)C(=O)O | C13H9F3N2O3
reactant | 4-aminomethylpyrrolidin-3-one O-methyloxime | 0.55 mmole, 205 mg | CON=C1CNCC1CN | C6H13N3O
product | 1-cyclopropyl-5-amino-6,8-difluoro-7-(4-aminomethyl-3-methyloxyiminopyrrolidin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 84 mg, Yield: 40% | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(C(C1)CN)=NOC)F)N)=O)C(=O)O | C19H21F2N5O4
